US05430145
Step a: N-(t-Butyloxycarbonyl)-2-(2-propenyl)-β-alanine, methyl ester
Dissolve diisopropylamine (5.6mL, 40mmol) in anhydrous tetrahydrofuran, cool to -78° C. and place under nitrogen atmosphere. Treat with n-butyllithium (25mL of a 1.6M solution in hexane, 40mmol). Stir for 30 minutes and add, by dropwise addition, a solution of N-(t-butyloxycarbonyl)-β-alanine methyl ester (4.06g, 20mmol) in tetrahydrofuran (25mL) over 20 minutes. Stir for an additional 30 minutes. Add allyl bromide (1.72mL, 20mmol) and allow the mixture to warm to room temperature with stirring until homogeneous. Cool to -78° C. and slowly warm to -20° C. over 30 minutes. Pour into 5% hydrochloric acid, extract into ether, wash with saturated sodium chloride, dry, and concentrate to yield 5.01g yellow oil. Purify by silica gel chromatography (25% ethyl acetate/hexane) to yield 4.2g (87%) of a racemic mixture of the title compound as a clear colorless oil.

reactant | diisopropylamine | 40mmol, 5.6mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(t-butyloxycarbonyl)-β-alanine methyl ester | 20mmol, 4.06g | COC(CCNC(=O)OC(C)(C)C)=O | C9H17NO4
reactant | allyl bromide | 20mmol, 1.72mL | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25mL | O1CCCC1 | C4H8O
product | N-(t-Butyloxycarbonyl)-2-(2-propenyl)-β-alanine, methyl ester | 5.01g | C(C)(C)(C)OC(=O)NCC(C(=O)OC)CC=C | C12H21NO4
